US07012089B2
8-Fluoro-3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole
To a solution of 9-fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine (1.79 g, 8.5 mmole) in 1-propanol (100 mL) was added cyclohexanone (9 ml, 86.8 mmole), followed by p-toluenesulfonic acid monohydrate (3.5 g, 18.1 mmole), and the resulting reaction mixture was refluxed for 30 hours. The reaction mixture was cooled to room temperature and solvent removed in vacuo to produce a brown residue. The residue was diluted with methylene chloride (300 mL) and washed with saturated aqueous sodium bicarbonate (200 mL), saturated aqueous sodium chloride (200 mL), dried (sodium sulfate) and concentrated in vacuo. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 1:1) provided 0.57 g of the title compound. 50 mg of the free amine was treated with one equivalent of fumaric acid in ethanol to form a fumarate salt 63.7 mg, mp 206-208° C. MS (ESI) m/z 273 ([M+H]+).

reactant | 9-fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 8.5 mmole, 1.79 g | FC=1C=CC2=C(N(CCN(CC2)C)N)C1 | C11H16FN3
reactant | cyclohexanone | 86.8 mmole, 9 ml | C1(CCCCC1)=O | C6H10O
reactant | p-toluenesulfonic acid monohydrate | 18.1 mmole, 3.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1-propanol | 100 mL | C(CC)O | C3H8O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 8-Fluoro-3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 0.57 g | FC1=C2C=3CCCCC3N3C2=C(C=C1)CCN(CC3)C | C17H21FN2
